US08735440B2
Step 2: 9-(2-hydroxy-2-methyl-3-phenoxypropyl)-9H-carbazole-3,6-dicarbonitrile (P7C3-S177)
An oven dried vial was charged with 1-(3,6-dibromo-9H-carbazol-9-yl)-2-methyl-3-phenoxypropan-2-ol (79.5 mg, 0.16 mmol), copper iodide (16 mg, 0.08 mmol), sodium cyanide (22 mg, 0.45 mmol) and potassium iodide (16 mg, 0.10 mmol). The sealed vial was nitrogen filled and evacuated three times before addition of N, N-dimethyl-1,2-ethanediamine (22.5 μl, 0.21 mmol) and anhydrous toluene (75 μl). The reaction was heated at 100° C. over 60 hours. The cooled mixture was diluted with EtOac, washed with water and brine. The organic layer was dried over Na2SO4, filtered and condensed. The crude mixture was purified on silica gel in 40% THF/hexanes. Yield=34%.

reactant | 1-(3,6-dibromo-9H-carbazol-9-yl)-2-methyl-3-phenoxypropan-2-ol | 0.16 mmol, 79.5 mg | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC(COC1=CC=CC=C1)(O)C | C22H19Br2NO2
reactant | sodium cyanide | 0.45 mmol, 22 mg | [C-]#N.[Na+]
reactant | potassium iodide | 0.10 mmol, 16 mg | [I-].[K+]
reactant | N, N-dimethyl-1,2-ethanediamine | 0.21 mmol, 22.5 μl | CN(CCN)C | C4H12N2
catalyst | copper iodide | 0.08 mmol, 16 mg | [Cu](I)I
solvent | toluene | 75 μl | C1(=CC=CC=C1)C | C7H8
product | 9-(2-hydroxy-2-methyl-3-phenoxypropyl)-9H-carbazole-3,6-dicarbonitrile | Yield=34% | OC(CN1C2=CC=C(C=C2C=2C=C(C=CC12)C#N)C#N)(COC1=CC=CC=C1)C | C24H19N3O2
